Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[O:8],2.17623493377
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][O:12][H:13],2.96572602766
[C:1].[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-7.16610990147
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.8682704342
[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.15943941135
[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10],-2.55567625776
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.98433502159
[O:1]=[C:2]=[C:5]([H:6])[H:7].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],-3.78291955666
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],1.7623715774200002
[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])[H:10],-3.4580288134599995
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],1.99352040436
[H:1][O:2]/[C:3]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:4][C:5][O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.53106962448
[C:2]=[C:3]([H:4])[H:5].[O:1]>>[O:1]=[C:2]=[C:3]([H:4])[H:5],-7.743880717410001
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.78700698297
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],1.84864666804
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:6],2.89112514662
[H:13].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12][H:13],-5.373375236219999
[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-2.99496688189
[C:2](=[C:3](\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])\[C:15]([H:16])([H:17])[H:18].[H:1]>>[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.7865857617500005
[H:1].[O:2]=[C:3]([C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.23315688632
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2][H:3],5.34315822682
[H:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7][C:8]([H:9])[H:10],2.57453207133
[C:1]#[C:2].[C:3]=[O:4]>>[C:1][C:2]#[C:3][O:4],-4.98196543976
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][O:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1[O:10][O:11]1,-1.5991254930399998
[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][C:4]([H:5])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.6841310351
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6],4.3968066206800005
[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.84577895146
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.57687031871
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10],2.54109267588
[H:10].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.99043284638
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8].[H:9],1.85247658665
